US04273929
6.0 Ml. of benzenesulfonyl chloride are added dropwise while stirring to a suspension of 10.8 g. of trans-4-[5-(p-n-heptylphenyl)-2-pyrimidinyl]cyclohexane carboxamide in 150 ml. of pyridine. The mixture is then warmed to 55° C. for 2 hours in an oilbath. The mixture is poured into ice-water and the product is taken up in methylene chloride. The extract is washed successively with dilute hydrochloric acid, saturated sodium bicarbonate solution and water, dried over sodium sulfate and evaporated. The crude product is chromatographed on a column of 300 g. of silica gel with toluene/5% acetone (v/v). The fractions which are pure according to thin-layer chromatography are combined and evaporated. The residue is dissolved in hexane, filtered hot with active carbon and recrystallized. The crystallizate is dried in vacuo overnight. There is obtained trans-4-[5-(p-n-heptylphenyl)-2-pyrimidinyl]cyclohexane carbonitrile; melting point 83.5° C., clearing point 160° C.

reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | trans-4-[5-(p-n-heptylphenyl)-2-pyrimidinyl]cyclohexane carboxamide | C(CCCCCC)C1=CC=C(C=C1)C=1C=NC(=NC1)[C@@H]1CC[C@H](CC1)C(=O)N | C24H33N3O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | trans-4-[5-(p-n-heptylphenyl)-2-pyrimidinyl]cyclohexane carbonitrile | C(CCCCCC)C1=CC=C(C=C1)C=1C=NC(=NC1)[C@@H]1CC[C@H](CC1)C#N | C24H31N3
